Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
ciprofloxacin
 
Attending: ___.
 
Chief Complaint:
pre-syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is an ___ with PMH of HTN, aflutter s/p ablation and
PPM  (___), recurrent syncopal episodes, prostate cancer s/p
prostatectomy (___), spinal stenosis who was transferred from
___-N after an unresponsive/syncopal episode. 

Patient reports that over the past week he developed progressive
fatigue and dyspnea. He saw an urgent care provider (Dr. ___ in
___ on ___ was reportedly diagnosed with PNA and
placed on antibiotics. He was also referred to see a 
cardiologist
and underwent repeat TTE, which reportedly was different from 
his
prior. He was initiated on a diuretic (he is uncertain of the
name) without significant improvement an took a total of 2 doses
prior to presentation . His symptoms continued throughout the
week, most prominently weakness. 

On day of admission, his daughter found him to be minimally
responsive at home, only able to say yes and no to questions and
not answering appropriately. No loss of bowel/bladder during
episode, no tongue biting.  This is reportedly consistent with
his prior episodes of unresponsiveness/?syncope for which he has
undergone extensive workup by cardiology and neurology at ___,
now s/p PPM. He has these episodes a total of 4 times in the
past.   Each episode lasts ___ minutes and is preceded by 
yawning.

He presented to ___-N and was found to have an elevated trop T 
to
0.05, BNP to 1K and was treated with nitropaste and Lasix and
transferred.  

Review of ___ records shows that patient was seen by cardiology
and neurology in the past for evaluation of these
syncopal/unresponsive episodes. Episodes were not felt to be
secondary to arrhythmia, seizure, TIA. Per neurology note, is
believed to represent possible REM sleep disorder or early
parkinsonian disorder.

He denies any fever/chills, CP, abd pain, n/v/d. 
 
Past Medical History:
 - HTN 
 - Rapid aflutter s/p ablation and dual chamber ___ 
___
PPM ___
 - Unresponsive/syncopal episodes s/p extensive workup at ___,
s/p PPM placement 
 - Prostatectomy ___
 - Dupuytren's Contracture Surgery ___
 
Social History:
___
Family History:
Mother - throat cancer
MGM - hypothyroidism
 
Physical Exam:
ADMISSION EXAM
===============================
VS:   98.2 PO 148 / 79 R Lying 71 18 95 Ra 
GENERAL: NAD, AOx3
HEENT: AT/NC, EOMI, PERRL, MM dry  
NECK: supple, no LAD, JVD flat at 90 degrees 
HEART: RRR, S1/S2, no murmurs, gallops, or rubs   
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, CN ___ intact, strength ___ in b/l ___
SKIN: warm and well perfused, no excoriations or lesions, no
rashes
  
DISCHARGE EXAM
===============================
Vital signs stable
General: Well appearing man in no acute distress. Comfortable. 
AAOx3.
HEENT: Normocephalic, atraumatic. EOMI. MMM.
Cardiac: Regular rate & rhythm. Normal S1/S2. No murmurs, rubs, 
or gallops.
Pulmonary: Fine crackles over the left lower lung field, 
otherwise clear.
Abdomen: Soft, non-tender, non-distended.
Extremities: Warm, well perfused, non-edematous. 
Neuro: A&Ox3, CNII-XII intact, strength ___ in bilateral upper 
and lower extremities
 
Pertinent Results:
ADMISSION LABS
===========================
___ 06:36AM BLOOD WBC-6.9 RBC-4.12* Hgb-13.4* Hct-39.3* 
MCV-95 MCH-32.5* MCHC-34.1 RDW-13.2 RDWSD-46.5* Plt ___
___ 06:36AM BLOOD Plt ___
___ 06:36AM BLOOD Glucose-85 UreaN-35* Creat-1.0 Na-138 
K-4.4 Cl-96 HCO3-28 AnGap-14
___ 06:36AM BLOOD CK-MB-2 cTropnT-0.02*
___ 12:18AM BLOOD cTropnT-0.03*
___ 06:36AM BLOOD Calcium-8.4 Phos-4.6* Mg-2.3
___ 06:36AM BLOOD TSH-3.1
___ 06:36AM BLOOD Free T4-1.5
 
PERTINENT LABS
===========================
___ 06:36AM BLOOD WBC-6.9 RBC-4.12* Hgb-13.4* Hct-39.3* 
MCV-95 MCH-32.5* MCHC-34.1 RDW-13.2 RDWSD-46.5* Plt ___
___ 06:36AM BLOOD Glucose-85 UreaN-35* Creat-1.0 Na-138 
K-4.4 Cl-96 HCO3-28 AnGap-14
___ 12:18AM BLOOD cTropnT-0.03*
___ 06:36AM BLOOD CK-MB-2 cTropnT-0.02*
___ 06:36AM BLOOD TSH-3.1
___ 06:36AM BLOOD Free T4-1.5
 
DISCHARGE LABS
===========================
No labs obtained day of discharge.
 
PERTINENT STUDIES 
===========================
CXR (___)
Lungs are low volume with bibasilar atelectasis.  Left-sided 
pacemaker is 
unchanged.  There are extensive degenerative changes involving 
the right 
shoulder joint.  Cardiomediastinal silhouette is stable.  No 
pneumothorax is seen.  There is minimal bibasilar atelectasis 
 
MICRO
===========================
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
NGTD
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
NGTD
 
Brief Hospital Course:
___ man with PMHx of hypertension, atrial flutter s/p 
ablation and PPM (___), recurrent syncopal episodes, 
prostate cancer s/p prostatectomy (___), spinal stenosis who 
was transferred from ___ for recurrent episode of 
unresponsiveness most likely due to focal seizure with impaired 
consciousness, though REM sleep disorder or other cause also on 
the differential. Also with associated acute kidney injury (in 
setting of over-diuresis for diastolic heart failure) which 
rapidly resolved. Was not started on anti-epileptic medications 
as inpatient though this should be considered during neurology 
follow up. Discharged to home with plan for PCP, ___, and 
cardiology follow up.

# UNRESPONSIVE EPISODE
# POSSIBLE FOCAL SEIZURE WITH IMPARED CONSCIOUSNESS
Presented with history of recurrent minimally responsive 
episodes during which he is minimally interactive: speaking 
"yes" or "no" (without accuracy to questions), yawning, at one 
time sliding down wall (without completely falling). Of note, 
has undergone significant prior workup at ___ 
___ including normal sleep study (and head imaging, per 
patient, however this could not be verified). Symptoms did not 
occur while hospitalized. Given the very rare frequency of 
episodes, continuous EEG monitoring was considered unlikely to 
be of significant yield. Telemetry monitoring without concerning 
events. Basic laboratory workup including CBC, chemistry, blood 
cultures were unrevealing. Pacemaker was interrogated and 
discovered to be in good working condition. Evaluated by 
neurology who found his history to be most consistent with 
either focal seizure vs. sleep disorder with elements of his 
exam also concerning for early ___ (given evidence 
resting tremor, mild masked facies). Possibility of starting 
Keppra was considered though deferred pending further discussion 
with outpatient neurologist given very rare frequency of 
episodes (only ___ over past several years) and because they 
have not been particularly burdensome in his day-to-day life. He 
is already well established with outpatient neurology and so 
would likely benefit from further discussion with his usual 
physicians. Discharged with plan for outpatient neurology follow 
up for further management, during which he should be considered 
for MRI brain (if not already completed).

# RECENT PNEUMONIA
Reported progressive weakness and dyspnea x1 week for which he 
was recently treated with cefuroxime for pneumonia. During 
hospitalization was afebrile, without significant respiratory 
symptoms, and without convincing evidence of pneumonia on CXR. 
Did not continue and/or start antibiotics.

# DIASTOLIC HEART FAILURE 
Echo from ___ notable for preserved EF. BNP was elevated to 
1K though hypovolemic on exam with concurrent ___. Received 1 
dose IV Lasix at OSH which was discontinued on arrival to ___ 
given concern for over-diuresis. Held home Lasix on discharge. 
Continued home metoprolol.

# TYPE II NSTEMI
No EKG changes. Troponin peaked at 0.03. Continued home 
atorvastatin and aspirin.

# ___ 
Baseline Cr ~1 per ___ records, elevated to 1.5. Likely 
pre-renal in setting of over-diuresis. Returned to baseline with 
PO intake alone. Discharge Cr 1.0.

# HYPERTENSION
Lisinopril was held on admission for ___. Of note, his blood 
pressure was elevated to 180-190s systolic off home 
anti-hypertensives (asymptomatic). Rapidly improved to normal 
range with resumption of home medications. Patient mentioned 
possible history of different blood pressure readings in 
different arms. This was formally tested and found to be 119/66 
in right arm and 103/60 in left arm. Discharged on home 
metoprolol, amlodipine, and lisinopril, and encouraged to 
stagger his blood pressure medications.

# ATRIAL FLUTTER 
- continued apixiban 

# GERD
- continued omeprazole 

TRANSITIONAL ISSUES
===================================

 [ ] Please discuss with patient and consider starting Keppra 
for possible partial seizures with impaired consciousness, if 
this is within his goals of care and considered to outweigh 
risks of new medication.

 [ ] Please obtain MRI brain for further evaluation of possible 
seizures if not already completed as outpatient. 

 [ ] Please repeat TSH with T4 following resolution of acute 
illness (TSH reportedly elevated to 8 at outside hospital during 
initial workup for weakness). Normal range on repeat at ___. 
Weakness later resolved with treatment of ___. 

 [ ] Reportedly abnormal recent outpatient TTE. Please repeat 
TTE as outpatient. Please monitor for symptoms of heart failure 
and treat as needed.

 [ ] STOPPED Lasix given hypovolemic on exam with associated 
___. Please consider resuming at follow up pending volume status 
and evidence of CHF symptoms.

 [ ] Patient noted possible history of variable blood pressure 
readings depending on arm. This was formally tested and found to 
be 119/66 in right arm and 103/60 in left arm. Please consider 
further workup if clinically indicated.

#CONTACT: ___ (___)
Greater than ___ hour spent on care on day of discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 20 mg PO DAILY 
2. Metoprolol Succinate XL 50 mg PO DAILY 
3. amLODIPine 5 mg PO DAILY 
4. Atorvastatin 10 mg PO QPM 
5. Omeprazole 20 mg PO DAILY 
6. Apixaban 5 mg PO BID 
7. Furosemide 40 mg PO DAILY 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY  
2.  Apixaban 5 mg PO BID  
3.  Atorvastatin 10 mg PO QPM  
4.  Lisinopril 20 mg PO DAILY  
5.  Metoprolol Succinate XL 50 mg PO DAILY  
6.  Omeprazole 20 mg PO DAILY  
7. HELD- Furosemide Dose is Unknown  PO DAILY  This medication 
was held. Do not restart Furosemide until you discuss with your 
regular doctor or cardiologist

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
unresponsive episodes (possibly focal seizures with impaired 
consciousness or sleep disorder)

SECONDARY DIAGNOSES:
acute kidney injury
diastolic heart failure
type II NSTEMI
hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___.

Why you were in the hospital:
- recurrent episode of decreased responsiveness
- weakness
- worsening kidney function (now resolved)

What was done for you in the hospital:
- You underwent blood tests to help determine if there was any 
significant infection or metabolic abnormalities to help explain 
your episodes. These tests were reassuring.
- You were evaluated by neurology who suggested the episodes 
might be due to "partial seizure" or alternatively, a sleep 
disorder. They suggested considering an anti-seizure medicine, 
which you can discuss with your regular neurologist.
- We obtained a chest x-ray that did not show any persistent 
signs of pneumonia.
- We monitored your blood pressure (which was particularly 
elevated at one point) and continued your home medications to 
treat this.

What you should do when you get home:
- Please follow up with your regular doctors as detailed in the 
discharge papers.
- Please weigh yourself daily. Should you note a gain of 3 lbs 
in one day or 5 lbs in one week, please call your doctor.
- Please discuss with your neurologist the possibility of 
starting a medication to treat these episodes, which may 
represent atypical seizures.
- Please monitor your symptoms and call your doctor or return to 
the ER if you develop worsening symptoms or are otherwise 
concerned.

We wish you the best!

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___